US08008307B2
Step e: (1S,2R,3R,5R)-3-(Hydroxymethyl)-5-(isonicotinoylamino)cyclopentane-1,2-diyl dibenzoate
A solution of (1R,2S,3R,5R)-3-amino-5-(hydroxymethyl)cyclopentane-1,2-diyl dibenzoate hydrochloride (150. mg, 0.380 mmol) in DCM (10.0 mL) at 0° C. was treated with EtN (0.170 mL, 1.22 mmol) and stirred for 20 min. Isonicotinoyl chloride (88.0 mg, 0.490 mmol) was then added and the mixture was stirred for 2 h. The reaction was treated with saturated aqueous solution of ammonium chloride (50 mL) and extracted with DCM (2×50 mL). The combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo. The resulting residue was purified via silica gel chromatography eluting with a gradient of 0 to 10% MeOH in DCM to afford the title compound (100. mg, 60%). LC/MS: Rt=1.49 min, ES+ 461 (FA standard).

reactant | (1R,2S,3R,5R)-3-amino-5-(hydroxymethyl)cyclopentane-1,2-diyl dibenzoate hydrochloride | 0.380 mmol | Cl.C(C1=CC=CC=C1)(=O)O[C@H]1[C@H]([C@@H](C[C@@H]1CO)N)OC(C1=CC=CC=C1)=O
reactant | Isonicotinoyl chloride | 0.490 mmol, 88.0 mg | C(C1=CC=NC=C1)(=O)Cl | C6H4ClNO
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | DCM | 10.0 mL | C(Cl)Cl | CH2Cl2
product | (1S,2R,3R,5R)-3-(Hydroxymethyl)-5-(isonicotinoylamino)cyclopentane-1,2-diyl dibenzoate | 60% | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@@H]([C@H](C[C@H]1NC(C1=CC=NC=C1)=O)CO)OC(C1=CC=CC=C1)=O | C26H24N2O6
